US08981084B2
A mixture of 2-bromoacetophenone (130 mg, 0.65 mmol) and tert-butyl 3-carbamothioyl-4-methylpiperazine-1-carboxylate (170 mg, 0.65 mmol) in EtOH (15 mL) was heated to 70° C. for 4 h. The reaction mixture was cooled to room temperature and solvent was evaporated under reduced pressure. The residue was diluted with water and the organic product was extracted with EtOAc. The combined extracts were washed with H2O and brine, and concentrated under reduced pressure. The crude product was purified by column chromatography (silica gel 60-120 mesh, eluent 20-25% EtOAc in petroleum ether) to afford tert-butyl 4-methyl-3-(4-phenylthiazol-2-yl)piperazine-1-carboxylate (150 mg, yield 64%). 1H NMR (300 MHz, CDCl3) δ 7.92-7.90 (m, 2H), 7.49 (m, 1H), 7.46-7.41 (m, 2H), 7.37-7.34 (m, 1H), 4.03-3.98 (m, 1H), 3.67-3.64 (m, 2H), 3.23-3.15 (m, 2H), 2.97-2.93 (m, 2H), 2.26 (s, 3H), 1.46 (s, 9H). MS (ESI) m/z: Calculated for C19H25N3O2S: 359.17. found: 360.2 (M+H)+

reactant | 2-bromoacetophenone | 0.65 mmol, 130 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | tert-butyl 3-carbamothioyl-4-methylpiperazine-1-carboxylate | 0.65 mmol, 170 mg | C(N)(=S)C1CN(CCN1C)C(=O)OC(C)(C)C | C11H21N3O2S
solvent | EtOH | 15 mL | CCO | C2H6O
product | tert-butyl 4-methyl-3-(4-phenylthiazol-2-yl)piperazine-1-carboxylate | 150 mg, yield 64% | CN1C(CN(CC1)C(=O)OC(C)(C)C)C=1SC=C(N1)C1=CC=CC=C1 | C19H25N3O2S
